US07858632B2
A mixture of 5-(2,4-Diamino-pyrimidin-5-yloxy)-4-isopropyl-2-methoxy-benzamide (0.25 g, 0.79 mmol, prepared according to the procedure of Example 52) and Lawesson's reagent (0.96 g, 2.37 mmol) in anhydrous THF (20 ml) was stirred at room temperature for 16 hrs and concentrated in vacuo. Flash chromatography on silica (5% CH3OH in methylene chloride with 1% NH4OH) gave 5-(2,4-Diamino-pyrimidin-5-yloxy)-4-isopropyl-2-methoxy-thiobenzamide (0.201 g, 76% ) as a yellow solid.

reactant | 5-(2,4-Diamino-pyrimidin-5-yloxy)-4-isopropyl-2-methoxy-benzamide | NC1=NC=C(C(=N1)N)OC=1C(=CC(=C(C(=O)N)C1)OC)C(C)C | C15H19N5O3
reactant | Lawesson's reagent | 2.37 mmol, 0.96 g | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | 5-(2,4-Diamino-pyrimidin-5-yloxy)-4-isopropyl-2-methoxy-thiobenzamide | 0.201 g, 76% | NC1=NC=C(C(=N1)N)OC=1C(=CC(=C(C(=S)N)C1)OC)C(C)C | C15H19N5O2S
